US05801271
Synthesis of methyl 7-(N-benzyloxycarbonylamino)-3-hydroxy-2-phenylheptanoate
22.6 g (58.8 mmol) of methyl 7-(N-benzyloxycarbonylamino)-3-oxo-2-phenylheptanoate, 435 mg (0.39 mmol) of [RuI(p-cymene)(S)-BINAP]I, 72 mg (0.39 mmol) of tin chloride and 364 mg (1.56 mol) of camphor-10-sulfonic acid (hereinafter referred to as "CSA") were placed in a 500 ml autoclave. After air in the autoclave was replaced with nitrogen, 160 ml of methanol was added to the mixture. The nitrogen in the autoclave was replaced with hydrogen and then the mixed solution was reacted at 80° C. under a hydrogen pressure of 80 kg/cm2 for 40 hours. After the completion of the reaction was confirmed by means of HPLC, the reaction solution was concentrated under reduced pressure. The residue was then purified by means of SGIC (eluent: hexane/ethylacetate=2/1 by volume) to prepare the target compound as a colorless oil in an amount of 37.4 g at a yield of 87.4%. The products were analyzed using HPLC. As a result, the rate of the syn-form to the anti-form was 76.3:23.7 and the optical purity of each of the forms was 95.6% ee and 97.8% ee respectively. The analytical results on the target compound are given below.

reactant | methyl 7-(N-benzyloxycarbonylamino)-3-oxo-2-phenylheptanoate | 58.8 mmol, 22.6 g | C(C1=CC=CC=C1)OC(=O)NCCCCC(C(C(=O)OC)C1=CC=CC=C1)=O | C22H25NO5
reactant | tin chloride | 0.39 mmol, 72 mg | [Sn](Cl)(Cl)(Cl)Cl
reactant | camphor-10-sulfonic acid | 1.56 mol, 364 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 160 ml | CO | CH4O
product | methyl 7-(N-benzyloxycarbonylamino)-3-hydroxy-2-phenylheptanoate | yield of 87.4% | C(C1=CC=CC=C1)OC(=O)NCCCCC(C(C(=O)OC)C1=CC=CC=C1)O | C22H27NO5
